US09238644B2
(a) 2-(2-((2,5-Dichloropyrimidin-4-ylethynyl)phenyl)propanamide (A29)
To a solution of 2-(2-ethynylphenyl)propanamide K7 (2.5 g, 14 mmol) and 2,4,5-trichloropyrimidine (2.2 mL, 19 mmol) in 1,4-dioxane (27 mL) and Et3N (8.1 mL, 58 mmol) containing CuI (0.055 g, 0.29 mmol) was added PdCl2(PPh3)2 (0.10 g, 0.14 mmol). The reaction mixture was heated at 60° C. for 2.5 hours under a nitrogen atmosphere. The solvent was removed in vacuo and the residue was diluted with 20% Et2O in cyclohexane. The precipitate was filtered, washed with water and dried in vacuo to give the title compound A29 as a light brown solid (4.52 g, 98%). LCMS-C: rt 5.10 min; m/z 320 [M+H]+.

reactant | 2-(2-ethynylphenyl)propanamide | C(#C)C1=C(C=CC=C1)C(C(=O)N)C | C11H11NO
reactant | 2,4,5-trichloropyrimidine | 19 mmol, 2.2 mL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | Et3N | 58 mmol, 8.1 mL | CCN(CC)CC | C6H15N
solvent | 1,4-dioxane | 27 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.29 mmol, 0.055 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.14 mmol, 0.10 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-((2,5-Dichloropyrimidin-4-ylethynyl)phenyl)propanamide | ClC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)C(C(=O)N)C)Cl | C15H11Cl2N3O
